US04341784
A mixture containing 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (2.7 g), triethylamine (1.01 g), 3-aminopyrrolidine (1.72 g), and acetonitrile (100 ml) was heated under reflux for 1.5 hours. After cooling the mixture, the resulting precipitate was collected and suspended in water (20 ml). The suspension was adjusted to pH 7.5-8.0 with acetic acid. The precipitate was collected, washed with water, and dried to yield 2.85 g of 7-(3-amino-1-pyrrolidinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, m.p. 259°-262° C. (decomp.).

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 2.7 g | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
reactant | 3-aminopyrrolidine | 1.72 g | NC1CNCC1 | C4H10N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 7-(3-amino-1-pyrrolidinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 2.85 g | NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C15H17FN4O3
